US08426420B2
iv) Piperidin-4-yl-carbamic acid butyl ester
To a solution of 1.8 g 4-butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester in 60 ml EtOH were added 200 mg Pd/C (10%) and the suspension stirred under an atmosphere of hydrogen (1 bar) for 2 h. The reaction mixture was filtrated over a plug of Celite and washed with EtOH to give the product as colorless oil after evaporation of the solvent.

reactant | 4-butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester | 1.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC(=O)OCCCC | C18H26N2O4
solvent | EtOH | 60 ml | CCO | C2H6O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | Piperidin-4-yl-carbamic acid butyl ester | C(CCC)OC(NC1CCNCC1)=O | C10H20N2O2
